US07838675B2
i) 4-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-6-ethoxy-pyrimidine
To a solution of 4,6-Dichloro-2-[(2,3-difluorobenzyl)thio]pyrimidine (0.50 g) in ethanol (5 mL) was added 60% sodium hydride (72 mg) and the reaction mixture was stirred at ambient temperature for 6 h. The mixture was diluted with H2O and extracted with EtOAc (×2). The combined organic layers were dried (MgSO4), filtered and evaporated to give the subtitle compound as a clear, colourless oil. Yield: 0.53 g

reactant | 4,6-Dichloro-2-[(2,3-difluorobenzyl)thio]pyrimidine | 0.50 g | ClC1=NC(=NC(=C1)Cl)SCC1=C(C(=CC=C1)F)F | C11H6Cl2F2N2S
reactant | sodium hydride | 72 mg | [H-].[Na+]
reactant | ethanol | 5 mL | C(C)O | C2H6O
solvent | H2O | O | H2O
product | 4-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-6-ethoxy-pyrimidine | ClC1=NC(=NC(=C1)OCC)SCC1=C(C(=CC=C1)F)F | C13H11ClF2N2OS
